US05506228
Preparation of 1-[(4-chlorophenyl)thio]-1-[(2-chlorophenyl)hydrazono]-2-propanone
1-chloro-1-[(2-chlorophen yl)hydrazono]-2-propanone is reacted with 4-chlorothiophenol as Example 11 to yield 1-[(4-chlorophenyl)thio]-1-[3-chlorophenyl)hydrazono]-2-propanone.

reactant | 1-chloro-1-[(2-chlorophen yl)hydrazono]-2-propanone | ClC(C(C)=O)=NNC1=C(C=CC=C1)Cl | C9H8Cl2N2O
reactant | 4-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | 2-propanone | CC(C)=O | C3H6O
product | 1-[(4-chlorophenyl)thio]-1-[(2-chlorophenyl)hydrazono]-2-propanone | ClC1=CC=C(C=C1)SC(C(C)=O)=NNC1=C(C=CC=C1)Cl | C15H12Cl2N2OS
